data/mechanism_extracts/JACS/10.1021_jacs.3c00753.json
{"doi": "10.1021_jacs.3c00753", "journal": "JACS", "is_review": false, "rxn_class_summary": "PPTS-promoted divergent conversion of a grayanane-type intermediate 11 into 1-epi-33 and 33 via competing Grob fragmentation/carbonyl-ene and E1 elimination pathways, applied to total syntheses of grayanoids", "mechanism_family": ["cation_initiated", "carbocation", "concerted"], "electrochemical_role": null, "key_intermediates": [{"name": "INT1, hydrogen-bonded complex of 11 with PPTS (pyridinium tosylate and acetate counterion network)", "smiles": null, "role": "resting_state"}, {"name": "INT2, ion-paired oxocarbenium/carbocationic intermediate after C-OAc heterolysis via TS1", "smiles": null, "role": "reactive"}, {"name": "INT3, higher-energy isomeric ion pair in equilibrium with INT2, leading to E1 elimination", "smiles": null, "role": "reactive"}, {"name": "10A, macrocyclic Grob fragmentation product bearing Δ1,10-alkene", "smiles": null, "role": "transient"}, {"name": "10B, reactive conformer of 10A leading to 1-epi-33 via TS4", "smiles": null, "role": "reactive"}, {"name": "10C, reactive conformer of 10A leading to 5-epi-33 via TS5 (disfavored)", "smiles": null, "role": "off_pathway"}, {"name": "1-epi-33, transannular carbonyl-ene cyclization product (major)", "smiles": null, "role": "reactive"}, {"name": "33, E1 elimination/Prins-type product from INT3 via TS3", "smiles": null, "role": "reactive"}], "electron_flow": "PPTS hydrogen-bonds to 11 (INT1) and promotes heterolytic C1-OAc cleavage through TS1 to give the ion pair INT2; INT2 either undergoes deprotonation-triggered Grob fragmentation of the C1-C5 bond (TS2) to macrocycle 10A, which then collapses by concerted transannular carbonyl-ene cyclization (TS4) to 1-epi-33, or isomerizes to INT3 and undergoes E1 elimination (TS3) to give 33.", "rate_determining_step": "Either Grob fragmentation via TS2 (ΔG‡ = 35.9 kcal/mol) for the 1-epi-33 pathway or E1 elimination via TS3 (ΔG‡ = 37.7 kcal/mol) for the 33 pathway; the close barriers rationalize the observed ~2.5:1 dr", "probe_reagents": [{"name": "BF3·Et2O (Lewis acid screen)", "smiles": "FB(F)F.CCOCC", "purpose": "other", "observation": "Substantial decomposition of 11 at 0 °C in CH2Cl2"}, {"name": "TsOH·H2O", "smiles": "Cc1ccc(S(=O)(=O)O)cc1.O", "purpose": "other", "observation": "<5% of both 1-epi-33 and 33 in toluene at 110 °C"}, {"name": "PPTS (pyridinium p-toluenesulfonate)", "smiles": "Cc1ccc(S(=O)(=O)[O-])cc1.c1cc[nH+]cc1", "purpose": "other", "observation": "Best conditions: 2.5:1 1-epi-33:33 in 80% combined yield at 110 °C, toluene"}, {"name": "Py·HCl", "smiles": "Cl.c1ccncc1", "purpose": "other", "observation": "Diminished yield (18% of 33), supporting role of tosylate counterion"}, {"name": "2,6-lutidine·TsOH", "smiles": "Cc1cccc(C)n1.Cc1ccc(S(=O)(=O)O)cc1", "purpose": "other", "observation": "Low yields (9% 1-epi-33, 20% 33); ortho-substitution on pyridinium disrupts H-bond network"}, {"name": "3,5-lutidine·TsOH", "smiles": "Cc1cnc(C)cc1.Cc1ccc(S(=O)(=O)O)cc1", "purpose": "other", "observation": "Diminished yields (16% 1-epi-33, 24% 33), implicating meta-H involvement"}, {"name": "para-substituted pyridinium tosylate variants (Table S2 entries 25, 26)", "smiles": null, "purpose": "other", "observation": "Electron-deficient pyridinium tunes acetate basicity and biases pathway selectivity, validating the H-bond-weaved counterion model"}, {"name": "DFT (ωB97X-V-SMD(toluene)/def2-TZVPP//B3LYP-D4-CPCM(toluene)/def2-SVP)", "smiles": null, "purpose": "other", "observation": "Located INT1/INT2/INT3 and TS1-TS5; predicts ΔG‡(TS2)=35.9 vs ΔG‡(TS3)=37.7 kcal/mol and ΔΔG‡(TS5-TS4)=4.0 kcal/mol explaining absence of 5-epi-33"}], "evidence_types_used": ["DFT", "isolation_of_intermediate", "other"], "evidence_strength": "medium", "notes": "Alternative pathway considered: direct PPTS-promoted Prins cyclization of 10A to 33 was computed to be kinetically unfavorable (ΔG‡ = 37.7 kcal/mol, Figure S3), so 33 is assigned exclusively to the E1 elimination route from INT3. The diastereoselectivity of the transannular carbonyl-ene step is rationalized by an eclipsed (disfavored, TS5, leads to 5-epi-33) vs staggered (favored, TS4, leads to 1-epi-33) transition state with torsional strain developing as the C6-H/C5-O dihedral rotates from -23.1° to +22.1°. The hydrogen-bond-weaved PPTS-acetate counterion is invoked as the key organizing element enabling pathway divergence."}
